US07595327B2
To a solution of 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid (0.280 g, 0.658 mmol) and 1-hydroxybenzotriazole (HOBT, 0.177 g, 1.32 mmol) in DMF (10 mL) was added 1-(3-dimethylamino)propyl)-3-ethylcarbodiimide hydrochloride (0.253 g, 1.32 mmol) at 0° C. The reaction mixture stirred at 0° C. for 10 min, then warmed to 25° C. over 1 h. After recooling the reaction to 0° C. hydroxylamine (50% by wt in water, 0.6 mL, 6.6 mmol) was added. The reaction was allowed to warm to 25° C. over 19 h. The DMF was removed in vacuo and the resulting oil was diluted with ethyl acetate (100 mL) and this mixture was then washed with saturated aqueous sodium bicarbonate (3×30 mL) and brine (30 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain a crude solid (0.170 g) which was purified by Biotage Flash 40S chromatography, eluting with 4% methanol in ethyl acetate, to afford (3S,4R)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid hydroxyamide as an amorphous white solid (0.02 g, 6.6%) that was a 75.7:24.3 mixture of enantiomers, as determined by analytical chiral HPLC (Chiralpak IA column, 7:3 n-propanol/heptane, 1 mL/min, 254 nm). MS: 472 (M+H)+

reactant | 4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid | 0.658 mmol, 0.280 g | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)NC1C(COCC1)C(=O)O | C23H24N2O6S
reactant | 1-hydroxybenzotriazole | 1.32 mmol, 0.177 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 3-ethylcarbodiimide hydrochloride | 1.32 mmol, 0.253 g | Cl.C(C)N=C=N
reactant | hydroxylamine | 6.6 mmol, 0.6 mL | NO | H3NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (3S,4R)-4-[4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonylamino]-tetrahydro-pyran-3-carboxylic acid hydroxyamide | 0.02 g, 6.6% | ONC(=O)[C@@H]1COCC[C@H]1NS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C23H25N3O6S
